US05648385
Methyl 4-[(1,1-Dimethyl-3-phenyl-1H-indene-5-carbonyl)amino]benzoate
Methyl 1,1-dimethyl-3-phenyl-1H-indene-5-carboxylate (315 mg, 1.13 mmol) was stirred with 10N NaOH (1.1 mL, 11.0 mmol) in 5 mL of methanol and 10 mL of tetrahydrofuran at 60° C. for 1.5 hours. The solution was concentrated under reduced pressure and acidified with 1N HCl (15 mL), extracted with ethyl acetate (15 mL×3). The combined extracts were washed with water (10 mL), dried over magnesium sulfate, and evaporated. The residue was dried in vacuum and dissolved in 2.5 mL of methylene chloride. To the solution was added oxalyl chloride (348 mg, 2.74 mmol) and 2 drops of dimethylformamide at 0° C. The solution was stirred at 0° C. for 30 min and at room temperature for 30 min. The mixture was evaporated and dried in vacuum. The residue was stirred with methyl 4-aminobenzoate (181 mg, 1.32 mmol) in 2 mL of anhydrous pyridine for 18 hours. Excess pyridine was evaporated and the residue was diluted with 20 mL of 2N HCl, extracted with ethyl ether (30 mL×4). The combined extracts were washed with water (10 mL), dried over magnesium sulfate and evaporated. The residue was purified by flash chromatography (EtOAc:hexane=1:20 to 1:5) to give 372 mg (85% yield) of the title compound as a glassy mass; 1H-NMR (CDCl3) δ 1.43 (s, 6H), 3.91 (s, 3H), 6.52 (s, 1H), 7.40-7.50 (m, 4H), 7.59-7.61 (m, 2H), 7.72-7.75 (m, 3H), 7.96 (s, 1H), 8.00 (bs, 1H), 8.05 (d, J=8.7 Hz, 2H); MS m/e 398 (MH+).

reactant | Methyl 1,1-dimethyl-3-phenyl-1H-indene-5-carboxylate | 1.13 mmol, 315 mg | CC1(C=C(C2=CC(=CC=C12)C(=O)OC)C1=CC=CC=C1)C | C19H18O2
reactant | NaOH | 11.0 mmol, 10N, 1.1 mL | [OH-].[Na+]
reactant | oxalyl chloride | 2.74 mmol, 348 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 4-aminobenzoate | 1.32 mmol, 181 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | Methyl 4-[(1,1-Dimethyl-3-phenyl-1H-indene-5-carbonyl)amino]benzoate | 372 mg, 85% yield | CC1(C=C(C2=CC(=CC=C12)C(=O)NC1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)C | C26H23NO3
